US09079866B2
2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and 2-bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide. MS (ESI): mass calcd. for C18H16F3N5O3S, 439.09; m/z found, 440.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.96 (s, 2H), 8.64 (d, J=1.7, 1H), 8.39 (s, 1H), 8.01 (d, J=8.0, 1H), 7.95 (dd, J=8.2, 2.3, 1H), 7.87 (d, J=8.3, 1H), 7.64 (d, J=8.0, 1H), 3.46 (t, J=5.9, 2H), 2.91 (t, J=5.9, 2H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | 2-bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCCO | C9H9BrF3NO3S
product | 2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzenesulfonamide | NC1=NC=C(C=N1)C1=CC=C(C=N1)C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCCO | C18H16F3N5O3S
